US09359364B2
E. 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine
3-Bromo-2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridine (1 equiv), 3,4-dihydro-2H-pyran (2 equiv) and methanesulfonic acid (0.1 equiv) were combined in tetrahydrofuran. The reaction was heated to 68° C. for 3.5 h, cooled to room temperature, and treated with triethylamine (0.4 equiv). The reaction mixture was concentrated under reduced pressure, treated with acetonitrile and concentrated under reduced pressure at 35° C. The residue was dissolved in acetonitrile (1 volume) and water (2.25 volumes), and the solids were collected by filtration, washed with a solution of 20% acetonitrile in water and dried. The crude product was triturated with hexanes, filtered, washed with hexanes and dried to provide the desired product, as a solid. MS (ESI) m/z 324.9 [M+2]+.

reactant | 3-Bromo-2-methyl-6-(4H-1,2,4-triazol-3-yl)pyridine | 1 equiv | BrC=1C(=NC(=CC1)C1=NN=CN1)C | C8H7BrN4
reactant | 3,4-dihydro-2H-pyran | 2 equiv | O1CCCC=C1 | C5H8O
reactant | methanesulfonic acid | 0.1 equiv | CS(=O)(=O)O | CH4O3S
reactant | triethylamine | 0.4 equiv | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine | BrC=1C(=NC(=CC1)C1=NN(C=N1)C1OCCCC1)C | C13H15BrN4O
